US09447091B2
b) 2-(Pyrrolidin-1-yl)acetic acid
The solution of ethyl 2-(pyrrolidin-1-yl)acetate (2 g, 12.7 mmol, 1.0 eq) in 8 N HCl was stirred at 95° C. for 16 h. The mixture was concentrated and quenched and extracted as in Intermediate Example 15(b). The solvent was distilled off to afford the product in 91% yield (1.5 g). LC-MS (ESI): Calculated mass: 129.1; Observed mass 130.1 [M+H+] (rt: 0.26 min).

reactant | ethyl 2-(pyrrolidin-1-yl)acetate | 12.7 mmol, 2 g, 1.0 eq | N1(CCCC1)CC(=O)OCC | C8H15NO2
solvent | HCl | 8 N | Cl | ClH
product | 2-(Pyrrolidin-1-yl)acetic acid | 91% yield | N1(CCCC1)CC(=O)O | C6H11NO2
